US09216999B2
4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
4-(Cyclohexylamino)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (273 mg, 1.12 mmol) in N,N-dimethylformamide (3 mL) was stirred with sodium hydride (55 wt % dispersion in mineral oil, 61.2 mg, 1.53 mmol) for 1 hour under cooling with ice. The reaction mixture was stirred with [2-(chloromethoxy)ethyl]trimethylsilane (260 μL, 1.47 mmol) at room temperature for one day, and after addition of water, extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1 (v/v)) to give the title compound as a pale yellow oil (265 mg, yield 63%).

reactant | 4-(Cyclohexylamino)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 1.12 mmol, 273 mg | C1(CCCCC1)NC1=C2C(=NC=C1C=O)NC=C2 | C14H17N3O
reactant | sodium hydride | 1.53 mmol, 61.2 mg | [H-].[Na+]
reactant | [2-(chloromethoxy)ethyl]trimethylsilane | 1.47 mmol, 260 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 265 mg, yield 63% | C1(CCCCC1)NC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C20H31N3O2Si
